US07429665B2
2-((4-(5-(pyridin-4-yl)oxazol-4-yl)phenoxy)methyl)quinoline
To a solution of compound 4-(5-(pyridin4-yl)oxazol4-yl)phenol (90 mg, 0.38 mmol) in 1 mL of dry DMF was added CsF (115 mg, 0.76 mmol). After stirring for 0.5 h, 2-(chloromethyl)quinoline (67 mg, 0.38 mmol) was added and the reaction was heated at 80° C. for 48 h. Upon removal of DMF under vacuum, the residue was purified by PTLC (1:2 hexane/EtOAc) to give 29 mg (20%) of the title compound as a white solid. 1H NMR (400 MHz, CDCl3) δ: 5.47 (s, 2H), 7.11 (m, 2H), 7.56 (m, 5H), 7.70 (d, 1H), 7.78 (t, 1H), 7.86 (d, 1H), 8.01 (s, 1H), 8.12 (d, 1H), 8.26 (d, 1H), 8.57 (d, (2H). MS m/z: 380 [M+1]+.

reactant | 4-(5-(pyridin4-yl)oxazol4-yl)phenol | 0.38 mmol, 90 mg | N1=CC=C(C=C1)C1=C(N=CO1)C1=CC=C(C=C1)O | C14H10N2O2
reactant | CsF | 0.76 mmol, 115 mg | [F-].[Cs+]
reactant | 2-(chloromethyl)quinoline | 0.38 mmol, 67 mg | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-((4-(5-(pyridin-4-yl)oxazol-4-yl)phenoxy)methyl)quinoline | 29 mg, 20% | N1=CC=C(C=C1)C1=C(N=CO1)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C24H17N3O2
